US08980877B2
(+)-(E)-3-[1′-Tert-butoxycarbonyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid methyl ester (710 mg, 1.77 mmol) was dissolved in DCM (50 ml). 4 M HCl in dioxane (2 ml) was added and the mixture was stirred at RT for 3 h. The precipitate was filtered, washed with DCM and dried to give (−)-(E)-3-[4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid methyl ester hydrochloride (516 mg)

reactant | (+)-(E)-3-[1′-Tert-butoxycarbonyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid methyl ester | 1.77 mmol, 710 mg | COC(\C=C\C=1C=C2C(CC3(CN(CCC3)C(=O)OC(C)(C)C)OC2=CC1)=O)=O | C22H27NO6
reactant | HCl | 4 M | Cl | ClH
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (−)-(E)-3-[4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid methyl ester hydrochloride | 516 mg | Cl.COC(\C=C\C=1C=C2C(CC3(CNCCC3)OC2=CC1)=O)=O | InChI=1S/C17H19NO4.ClH/c1-21-16(20)6-4-12-3-5-15-13(9-12)14(19)10-17(22-15)7-2-8-18-11-17;/h3-6,9,18H,2,7-8,10-11H2,1H3;1H/b6-4+;
